** sch_path: /foss/designs/eda/SymXplorer/examples/5t-ota/ihp-sg13g2/xschem/ota-5t_tb-loopgain.sch
**.subckt ota-5t_tb-loopgain
Vdd v_dd GND 1.5
Vss v_ss GND 0
Vin v_in v_ss dc 0.75
Venable v_ena v_ss 1.5
C2 vr1 v_ss 50f m=1
I1 v_dd net1 20u
x1 v_dd vr1 v_in vf1 net1 v_ena v_ss ota-5t
Vtest1 vf1 vr1 dc 0 ac 1
C1 net2 v_ss 50f m=1
I2 v_dd net3 20u
x2 v_dd net2 v_in net4 net3 v_ena v_ss ota-5t
Vir1 net2 net5 0
.save i(vir1)
Vif1 net5 net4 0
.save i(vif1)
Itest1 v_ss net5 dc 0 ac 1
C3 net6 v_ss 50f m=1
I3 v_dd net7 20u
x3 v_dd net6 v_in vmeas1 net7 v_ena v_ss ota-5t
C4 net8 v_ss 50f m=1
I4 v_dd net9 20u
x4 v_dd net8 v_in vmeas2 net9 v_ena v_ss ota-5t
Itest3 v_ss vmeas1 dc 0 ac 0
Vtest2 vmeas1 net10 dc 0 ac 1
Vimeas1 net6 net10 0
.save i(vimeas1)
Itest2 v_ss vmeas2 dc 0 ac 1
Vtest3 vmeas2 net11 dc 0 ac 0
Vimeas2 net8 net11 0
.save i(vimeas2)
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt




.param temp=27
.options savecurrents
.options reltol=1e-3 abstol=1e-12 gmin=1e-15

.control

    echo ==================================
    echo start of Control
    echo ==================================

    save all

    echo
    echo (A) start of OP
    echo ----------------------------------

    * Operating Point Analysis (not needed in the optimization... could be turned on but it is turned off to save sim time)
    op
    remzerovec
    write
    set appendwrite

    echo
    echo (B) start of AC Sim
    echo ----------------------------------

    * save the vectors needed in the post-processing (optional - to improve speed... should not use 'save all')
    save vr1 vf1 vir1 vif1 vmeas2 Vimeas2 vmeas1 Vimeas1

    * AC Analysis
    ac dec 101 1 100G

    echo (1) performing Middlebrook's Method

    * Middlebrook's Method
    let tv=-v(vr1)/v(vf1)
    let ti=-i(vir1)/i(vif1)
    let tmb=(tv*ti - 1)/(tv + ti + 2)

    *plot db(tmb) ylabel 'Magnitude - Middlebrook'
    *plot 180/pi*cphase(tmb) ylabel 'Phase - Middlebrook'

    echo (2) performing Tian's Method

    * Tian's Method
    * vtest=0, itest=1:
    let A=i(Vimeas2)
    let C=v(vmeas2)

    * vtest=1, itest=0:
    let B=i(Vimeas1)
    let D=v(vmeas1)
    let ttian=(A*D-B*C-A)/(2*(B*C-A*D)+A-D+1)

    *plot db(ttian) ylabel 'Magnitude - Tian'
    *plot 180/pi*cphase(ttian) ylabel 'Phase - Tian'


    echo (3) measuring performance metrics

    * magnitude
    let out = tmb
    let out_mag = db(out)
    let out_phase = cphase(tmb) * 180/pi

    meas ac GMAX max out_mag

    meas ac DCGAIN MAX out_mag FROM=10 TO=10k

    let f3db = DCGAIN-3
    meas ac FBW WHEN out_mag=f3db FALL=1

    meas ac unity_gain_phase find out_phase when out_mag=0
    meas ac UGF when out_mag=0 fall=1

    let PM = (180-unity_gain_phase) % 180
    print DCGAIN FBW PM UGF

    * Output measured metrics to a file (optional)
    * print DCGAIN FBW PM UGF > meas_results.txt

    echo (4) plotting...

    * Middlebrook vs. Tian
    plot db(tmb) db(ttian) ylabel 'Magnitude'
    plot 180/pi*cphase(tmb) 180/pi*cphase(ttian) ylabel 'Phase'

    echo ----------------------------------
    echo END of AC sim
    echo  ----------------------------------

    echo SAVING SIMULATION RESULTS IN THE RAW FILE
    * save out DCGAIN PM FBW UGF
    write

    echo ==================================
    echo END of Control
    echo ==================================

    * quit

.endc






.param x_dut_nfet_input_w=0.5u
.param x_dut_nfet_input_l=5.0u

.param x_dut_nfet_mirror_w=2.0u
.param x_dut_nfet_mirror_l=5.0u

.param x_dut_pfet_load_w=1.5u
.param x_dut_pfet_load_l=5.0u



**** end user architecture code
**.ends

* expanding   symbol:  ota-5t.sym # of pins=7
** sym_path: /foss/designs/eda/SymXplorer/examples/5t-ota/ihp-sg13g2/xschem/ota-5t.sym
** sch_path: /foss/designs/eda/SymXplorer/examples/5t-ota/ihp-sg13g2/xschem/ota-5t.sch
.subckt ota-5t vdd vout vinp vinn ibias_20u d_ena vss
*.ipin ibias_20u
*.iopin vdd
*.iopin vss
*.ipin vinp
*.ipin vinn
*.opin vout
*.ipin d_ena
XM5 tail gate_n vss vss sg13_lv_nmos w=x_dut_nfet_mirror_w l=x_dut_nfet_mirror_l ng=1 m=1
XM4 vout gate_p vdd vdd sg13_lv_pmos w=x_dut_pfet_load_w l=x_dut_pfet_load_l ng=1 m=1
XM1 gate_p vinp tail vss sg13_lv_nmos w=x_dut_nfet_input_w l=x_dut_nfet_input_l ng=1 m=1
XM2 vout vinn tail vss sg13_lv_nmos w=x_dut_nfet_input_w l=x_dut_nfet_input_l ng=1 m=1
XM3 gate_p gate_p vdd vdd sg13_lv_pmos w=x_dut_pfet_load_w l=x_dut_pfet_load_l ng=1 m=1
XM6 ibias_20u gate_n vss vss sg13_lv_nmos w=2.5u l=5u ng=5 m=1
XM9 gate_n ena_n vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XM11 gate_p ena vdd vdd sg13_lv_pmos w=1.5u l=0.13u ng=1 m=1
XM7 ena ena_n vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XM8 ena ena_n vdd vdd sg13_lv_pmos w=1.5u l=0.13u ng=1 m=1
XM10 ibias_20u ena gate_n vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XM12 ena_n d_ena vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XM13 ena_n d_ena vdd vdd sg13_lv_pmos w=1.5u l=0.13u ng=1 m=1
.ends

.GLOBAL GND
.end
