** sch_path: /foss/designs/eda/SymXplorer/examples/tunable-tia/tia-bpf-1/tb_dc.sch
**.subckt tb_dc
V0 VSS GND 0
V2 VDD GND {vdd}
x_dut VDD VSS Vop Von In Ip Vbias bpf-tia-1-all-r-c
V1 Vbias GND {vbias}
C1 Von GND {cload} m=1
C2 Vop GND {cload} m=1
Icm In GND {icm}
Idn In GND dc 0 ac 0
Icm1 Ip GND {icm}
Idp Ip GND PULSE(0 {i_step} 100n 1n 1n 1u 2u)
**** begin user architecture code


.control

    echo ==================================
    echo start of Control
    echo ==================================

    save all

    echo
    echo (A) start of OP
    echo ----------------------------------

    * operating point
    op

    let gm_id_1_2 = @m.x_dut.xm1.m0[gm]/@m.x_dut.xm1.m0[id]

    print all
    write op.raw

    echo ----------------------------------
    echo END of OP
    echo ----------------------------------

    * set appendwrite
echo
    echo (B) start of DC Sweep
    echo ----------------------------------

    * example: sweep VIN from 0V to 1.8V in 0.01V steps
    *dc VIN 0 1.8 0.01

    * we sweep the differential current
    dc ICM 0 1.8u 0.01


    * post-processing
    let Vout_dc = v(Vop) - v(Von)

    * The following works if the DUT is voltage follower and configured in unity-gain
    *meas dc Vout_mid find Vout_dc when VIN=0.9
    *meas dc Vin_th when Vout_dc=0.9 cross=1
    plot Vout_dc vs ip

    echo ----------------------------------
    echo END of DC Sweep
    echo ----------------------------------

    echo
    echo (C) start of Transient Sim (step input)
    echo ----------------------------------

    * step input should be defined in netlist, e.g.:
    * VIN in 0 pulse(0 1.8 0 1n 1n 1u 2u)
    tran 1n 10u

    * post-processing
    let Vout_tran = v(Vop) - v(Von)
    meas tran t_delay trig v(Vin) val=0.9 rise=1 targ Vout_tran val=0.9 rise=1
    plot Vout_tran

    echo ----------------------------------
    echo END of Transient Step Sim
    echo ----------------------------------

    echo
    echo (D) start of Transient Sim (sinusoidal input)
    echo ----------------------------------

    * sinusoidal input should be defined in netlist, e.g.:
    * VIN in 0 sin(0 0.5 1e6 0 0)
    tran 1n 10u

    * post-processing
    let Vout_sin = v(Vop) - v(Von)
    fft Vout_sin
    plot Vout_sin

    echo ----------------------------------
    echo END of Transient Sin Sim
    echo ----------------------------------

    echo SAVING SIMULATION RESULTS IN THE RAW FILE
    save all
    write

    echo ==================================
    echo END of Control
    echo ==================================
.endc



.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
* .lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_statistical




*.option savecurrents
* Saving gm values for transistors
.save @m.x_dut.xm1.m0[gm]
.save @m.x_dut.xm2.m0[gm]

* Saving id values for transistors
.save @m.x_dut.xm1.m0[id]
.save @m.x_dut.xm2.m0[id]





.param icm=0.5e-6
.param i_step=0.5e-6

.param vdd=6.0
.param vbias=1.0

.param cload=1p





* All DUT parameters

* MOSFET PARAMETERS
.param x_dut_m1_2_w=0.22u
.param x_dut_m1_2_l=0.40u
.param x_dut_m1_2_nf=2

* PASSIVE ELEMENT PARAMETERS
.param x_dut_ldd=2n
.param x_dut_cdd=1n

.param x_dut_rs=1k

.param x_dut_r4=1k


**** end user architecture code
**.ends

* expanding   symbol:  tia-bpf-1/bpf-tia-1-all-r-c.sym # of pins=7
** sym_path: /foss/designs/eda/SymXplorer/examples/tunable-tia/tia-bpf-1/bpf-tia-1-all-r-c.sym
** sch_path: /foss/designs/eda/SymXplorer/examples/tunable-tia/tia-bpf-1/bpf-tia-1-all-r-c.sch
.subckt bpf-tia-1-all-r-c vdd vss vop von inn inp vbias
*.iopin vdd
*.iopin vss
*.ipin inp
*.ipin inn
*.opin von
*.opin vop
*.ipin vbias
XM1 von vbias inp vss nfet_03v3 L={x_dut_m1_2_l} W={x_dut_m1_2_w} nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 vop vbias inn vss nfet_03v3 L={x_dut_m1_2_l} W={x_dut_m1_2_w} nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
R1 inp vss {x_dut_rs} m=1
R2 inn vss {x_dut_rs} m=1
C1 vdd von {x_dut_cdd} m=1
C2 vdd vop {x_dut_cdd} m=1
L2 vdd von {x_dut_ldd} m=1
L3 vdd vop {x_dut_ldd} m=1
R4 von vop {x_dut_r4} m=1
.ends

.GLOBAL GND
.end
